US08357717B2
Stage 3: tert-Butyl 2-(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane-3-carbonyl)-5,6-dihydroimidazo[1,2-a]pyrazine-7(8H)-carboxylate
DIPEA (5.96 mmol, 4.0 equiv.), EDCl (2.24 mmol, 1.5 equiv.) and HOBt (2.24 mmol, 1.5 equiv.) were added at 0° C. to a solution of 7-(tert-butoxycarbonyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carboxylic acid (1.49 mmol, 1.0 equiv.) in DCM (20 ml), and the mixture was stirred for 30 min. A solution of 3-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane (F-19) (1.49 mmol, 1.0 equiv.) in DCM (5 ml) was added at 0° C., and then the reaction mixture was stirred for 16 h at 25° C. The mixture was diluted with DCM (100 ml) and washed with sat. sodium carbonate solution (65 ml), sat. ammonium chloride solution (65 ml), water (50 ml) and sat. sodium chloride solution (50 ml), dried over Na2SO4 and concentrated in vacuo. The resulting crude product was used directly in the following stage. Yield: 63%

reactant | DIPEA | 5.96 mmol, 4.0 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCl | 2.24 mmol, 1.5 equiv. | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 2.24 mmol, 1.5 equiv. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 7-(tert-butoxycarbonyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carboxylic acid | 1.49 mmol, 1.0 equiv. | C(C)(C)(C)OC(=O)N1CC=2N(CC1)C=C(N2)C(=O)O | C12H17N3O4
reactant | 3-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane | 1.49 mmol, 1.0 equiv. | N1=CC=C(C=C1)N1CCC2(CC1)CCNCC2 | C14H21N3
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane-3-carbonyl)-5,6-dihydroimidazo[1,2-a]pyrazine-7(8H)-carboxylate | Yield: 63% | N1=CC=C(C=C1)N1CCC2(CCN(CC2)C(=O)C=2N=C3N(CCN(C3)C(=O)OC(C)(C)C)C2)CC1 | C26H36N6O3
